US04285940
(a) 6,7-Diacetoxychromone-3-carbonyl chloride
A mixture of 6,7-diacetoxychromone-3-carboxylic acid (18.4 g, 60 mmol), benzene (450 ml), thionyl chloride (8.6 g, 72 mmol) and N,N-dimethylformamide (3 ml) was refluxed for one hour and cooled to room temperature. After the addition of n-hexane (300 ml), the resulting precipitate was filtered off to give the desired compound (17.6 g).

reactant | 6,7-diacetoxychromone-3-carboxylic acid | 60 mmol, 18.4 g | C(C)(=O)OC=1C=C2C(C(=COC2=CC1OC(C)=O)C(=O)O)=O | C14H10O8
reactant | benzene | 450 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 72 mmol, 8.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | 300 ml | CCCCCC | C6H14
product | 6,7-Diacetoxychromone-3-carbonyl chloride | 17.6 g | C(C)(=O)OC=1C=C2C(C(=COC2=CC1OC(C)=O)C(=O)Cl)=O | C14H9ClO7
